US08957070B2
Diethyl {[3-({methyl[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]amino}sulfonyl)-2-thienyl]methyl}phosphonate
A solution of 2-(chloromethyl)-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide (240 mg) in triethyl phosphite (5 mL) was stirred at 100° C. for 1 hr. The reaction mixture was subjected to silica gel column chromatography (ethyl acetate) to give the title compound (67 mg, yield 25%) as a pale-yellow amorphous. M+1=526.

reactant | 2-(chloromethyl)-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide | 240 mg | ClCC=1SC=CC1S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC=CN1)C | C17H14ClN3O2S3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | triethyl phosphite | 5 mL | P(OCC)(OCC)OCC | C6H15O3P
product | Diethyl {[3-({methyl[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]amino}sulfonyl)-2-thienyl]methyl}phosphonate | 67 mg, yield 25% | CN(S(=O)(=O)C1=C(SC=C1)CP(OCC)(OCC)=O)C=1C=CC=C2C=C(NC12)C=1SC=CN1 | C21H24N3O5PS3
